US09120728B2
2-[3-fluoro-5-(methylsulfonyl)phenoxy]ethanamine
A mixture of tert-butyl 2-[3-fluoro-5-(methylsulfonyl)phenoxy]ethyl-carbamate (1.4 g, 4.2 mmol) in EtOH (18 ml) was added HCl (1.25 M in EtOH, 6 ml). The mixture was stirred at ambient temperature for 20 h. The aqueous phase was made basic by addition of aqueous NaOH (1 M, 50 ml) and extracted with ethyl acetate (2×100 ml). The combined organic phase was washed with brine (75 ml), dried (Na2SO4) and evaporated to yield the title compound (0.77 g, 77%). MS m/z (relative intensity, 70 eV 298 (M+, 18), 296 (M+, 18), 109 (bp), 107 (99), 82 (15).

reactant | tert-butyl 2-[3-fluoro-5-(methylsulfonyl)phenoxy]ethyl-carbamate | 4.2 mmol, 1.4 g | FC=1C=C(OCCNC(OC(C)(C)C)=O)C=C(C1)S(=O)(=O)C | C14H20FNO5S
reactant | HCl | 1.25 M, 6 ml | Cl | ClH
reactant | NaOH | 1 M, 50 ml | [OH-].[Na+]
solvent | EtOH | 18 ml | CCO | C2H6O
product | 2-[3-fluoro-5-(methylsulfonyl)phenoxy]ethanamine | 0.77 g, 77% | FC=1C=C(OCCN)C=C(C1)S(=O)(=O)C | C9H12FNO3S
